US04629787
Dissolve 2.59 g 3-(S)-t-butoxycarbonylamino-1-(1-methylcarbonylethyl)perhydroazepin-2-one in 10 ml. methanol and 10 ml water and add 0.5 ml 50% NaOH solution. Store the mixture at room temperature for 2 hours and then concentrate at aspirator pressure to a syrup. Dissolve the syrup in water and chill the solution in an ice bath. Add 6N hydrochloric acid to pH 2 then extract the solution several times with ethyl acetate. Dry the combined extracts over MgSO4, filter and concentrate the filtrate at aspirator pressure and isolate 3-(S)-t-butoxycarbonylamino-1-(1-carboxyethyl)perhydroazepin-2-one as an oil (2.04 g) which is a mixture of diastereomers. Separate the isomers on a column of XAD2 resin at 50° C. using 0.1N NH4OH containing 6% acetonitrile as eluent. Isolate the ammonium salt of the desired isomer as the one which elutes first (u.v. and refractive index detection).

reactant | 3-(S)-t-butoxycarbonylamino-1-(1-methylcarbonylethyl)perhydroazepin-2-one | 2.59 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CCCC1)C(C)C(=O)C)=O | C15H26N2O4
reactant | methanol | CO | CH4O
reactant | NaOH | 0.5 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 3-(S)-t-butoxycarbonylamino-1-(1-carboxyethyl)perhydroazepin-2-one | 2.04 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CCCC1)C(C)C(=O)O)=O | C14H24N2O5
